US05852017
g) 7-Chloro-6-(2,5-dimethyl-1-pyrrolyl)-1-(methoxycarbonylmethyl)-2,3(1H,4H)-quinoxalinedione
6.0 g (20.2 mmol) of 6-amino-7-chloro-1-(methoxycarbonylmethyl)-2,3(1H,4H)-quinoxalinedione and 2.4 ml (20.2 mmol) of 2,5-hexanedione were refluxed in 75 ml of glacial acetic acid for 0.5 h. The mixture was then poured into ice-water and the precipitate was filtered off with suction to yield 5.5 g (74%) of the product.

reactant | 6-amino-7-chloro-1-(methoxycarbonylmethyl)-2,3(1H,4H)-quinoxalinedione | 20.2 mmol, 6.0 g | NC=1C=C2NC(C(N(C2=CC1Cl)CC(=O)OC)=O)=O | C11H10ClN3O4
reactant | 2,5-hexanedione | 20.2 mmol, 2.4 ml | CC(CCC(C)=O)=O | C6H10O2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 7-Chloro-6-(2,5-dimethyl-1-pyrrolyl)-1-(methoxycarbonylmethyl)-2,3(1H,4H)-quinoxalinedione | 5.5 g, 74% | ClC1=C(C=C2NC(C(N(C2=C1)CC(=O)OC)=O)=O)N1C(=CC=C1C)C | C17H16ClN3O4
